US06949648B2
5-Amino-3-(cyanomethyl)-1-(2-pyridinyl)-1H-pyrazole-4-carbonitrile
A solution of malononitrile (19.8 g, 300 mmol) and 2-hydrazinopyridine (16.4 g, 150 mmol) in ethanol (300 mL) was heated under reflux for 12 hours. The solution was cooled to room temperature, and the resulting crystals were collected by filtration. The crystals were purified by silica gel column chromatography (chloroform to 2% methanol/chloroform) to give the title compound (12.5 g, 37% yield).

reactant | malononitrile | 300 mmol, 19.8 g | C(CC#N)#N | C3H2N2
reactant | 2-hydrazinopyridine | 150 mmol, 16.4 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-Amino-3-(cyanomethyl)-1-(2-pyridinyl)-1H-pyrazole-4-carbonitrile | 12.5 g, 37% yield | NC1=C(C(=NN1C1=NC=CC=C1)CC#N)C#N | C11H8N6
